US07947676B2
3-[2-(4-acetylpiperazin-1-yl)ethoxy]-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine
The procedure described in Example 23 was repeated using 3-(2-chloroethoxy)-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine and N-acetylpiperazine to give the title compound in 36% yield; NMR Spectrum: 1.96 (s, 3H), 2.19 (s, 3H), 2.44 (s, 3H), 2.46 (t, 2H), 2.50 (hidden by DSMO, 2H), 2.86 (t, 2H), 3.36-3.42 (m, 4H), 4.46 (t, 2H), 6.95 (d, 1H), 7.17-7.25 (m, 2H), 7.60 (d, 1H), 7.65 (s, 1H), 8.16 (s, 1H), 8.30 (s, 1H), 8.34 (s, 1H); Mass Spectrum: 503 (MH+).

reactant | 3-(2-chloroethoxy)-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OC=2C=NC(=CC2)C)C | C20H19ClN6O2
reactant | N-acetylpiperazine | C(C)(=O)N1CCNCC1 | C6H12N2O
product | 3-[2-(4-acetylpiperazin-1-yl)ethoxy]-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 36% yield | C(C)(=O)N1CCN(CC1)CCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OC=2C=NC(=CC2)C)C | C26H30N8O3
